US09359375B2
A solution of ((R)-tert-butyl 3-(4-(1H-imidazol-1-yl)phenyl)-1-amino-1-oxopropan-2-ylcarbamate (250 mg, 0.757 mmol) in 4M HCl in dioxane (4 mL) and 6N HCl (4 mL) was stirred at room temperature for 30 min. It was then concentrated in vacuo. The residue was dissolved in MeOH (10 mL), MP-carbonate resin (1.00 g, ca. 3 mmol/g, 3.00 mmol) was added. After swirling and standing for 2 h, the resin was filtered off. The filtrate was concentrated in vacuo to give (R)-3-(4-(1H-imidazol-1-yl)phenyl)-2-aminopropanamide as free base (100 mg).

reactant | (R)-tert-butyl 3-(4-(1H-imidazol-1-yl)phenyl)-1-amino-1-oxopropan-2-ylcarbamate | 0.757 mmol, 250 mg | N1(C=NC=C1)C1=CC=C(C=C1)C[C@H](C(=O)N)NC(OC(C)(C)C)=O | C17H22N4O3
reactant | MP-carbonate resin | 3.00 mmol, 1.00 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 6N, 4 mL | Cl | ClH
product | (R)-3-(4-(1H-imidazol-1-yl)phenyl)-2-aminopropanamide | N1(C=NC=C1)C1=CC=C(C=C1)C[C@H](C(=O)N)N | C12H14N4O
